US07763639B2
3-(1-ETHYLPIPERIDIN-4-YL)-2-FLUOROPHENYL TRIFLUOROMETHANESULFONATE
To a solution of 3-(1-ethylpiperidin-4-yl)-2-fluorophenol (0.5 g, 2.24 mmol) in methylene chloride (20 ml) was added triethylamine (4 ml) and trifluoromethanesulfonic anhydride (0.75 ml, 4.5 mmol). The mixture was stirred for 20 h, water (50 ml) and methylene chloride (50 ml) was added and the phases were separated. The aqueous phase was extracted with methylene chloride (2×50 ml) and the combined organic phases was dried (MgSO4) and evaporated under reduced pressure to give an oil. Purification by flash column chromatography (ethyl acetate/methanol, 1:1) gave the title compound: 0.47 g (59%). The amine was converted to the fumaric acid salt and recrystallized from ethanol/diethyl ether: M.p. 158-159° C. MS m/z (relative intensity, 70 eV) 355 (M+, 20), 341 (18), 340 (bp), 222 (18), 207 (77).

reactant | 3-(1-ethylpiperidin-4-yl)-2-fluorophenol | 2.24 mmol, 0.5 g | C(C)N1CCC(CC1)C=1C(=C(C=CC1)O)F | C13H18FNO
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 4.5 mmol, 0.75 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | 50 ml | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-(1-ETHYLPIPERIDIN-4-YL)-2-FLUOROPHENYL TRIFLUOROMETHANESULFONATE | FC(S(=O)(=O)OC1=C(C(=CC=C1)C1CCN(CC1)CC)F)(F)F | C14H17F4NO3S
